US04089973
a. 4-Chloro-3,5-dinitrobenzoyl chloride
A mixture of 75.75 gm. (0.307 mole) of 4-chloro-3,5-dinitrobenzoic acid and 64.0 gm. (0.307 mole) of phosphorus pentachloride is heated at reflux for ninety minutes and cooled to room temperature. The phosphorus oxychloride is removed by distillation in vacuo The residue is washed with Skellysolve "B" and the solvent removed by decantation. The oily residue is recrystallized from benzene-cyclohexane. There is obtained 58.2 gm. (72%) of tan needles melting at 55°-57° .

reactant | 4-chloro-3,5-dinitrobenzoic acid | 0.307 mole | ClC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H3ClN2O6
reactant | phosphorus pentachloride | 0.307 mole | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 4-Chloro-3,5-dinitrobenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H2Cl2N2O5
